US05112834
G. 8-benzyloxy-6-chloro-2-methyl-imidazo[1,2-a]pyridinehydrochloride
1.8 g commercial 80% sodium hydride in paraffin is added in small portions at room temperature to 5.4 ml benzyl alcohol dissolved in 300 ml dry dimethylformamide. The benzylate solution is stirred for a further 2 hours. Thereafter it is cooled to -40° C., mixed with 10.0 g 6,8-dichloro-2-methyl-imidazo[1,2-a]pyridine and stirred for a further 4 hours. The temperature is allowed to rise gradually to 12° C. and the mixture is stirred at this temperature for 48 hours. Thereafter the solution is poured onto 1.5 kg icewater, the solution brought to pH=7 with 1 N-HCl and extracted 3×with 100 ml ethyl acetate each time. The combined extracts are dried with sodium sulfate and evaporated to dryness on the rotary evaporator. After dissolution in 100 ml 2-propanol, the title compound is precipitated by addition of saturated HCl-ether solution. After the precipitate has been filtered off under suction, it is recrystallized twice from isopropanol, 4.5 g of the title compound of m.p. 180°-182° C. being obtained.

reactant | sodium hydride | [H-].[Na+]
reactant | benzyl alcohol | C(C1=CC=CC=C1)O | C7H8O
reactant | 6,8-dichloro-2-methyl-imidazo[1,2-a]pyridine | 10.0 g | ClC=1C=C(C=2N(C1)C=C(N2)C)Cl | C8H6Cl2N2
reactant | HCl | Cl | ClH
solvent | dimethylformamide | 300 ml | CN(C=O)C | C3H7NO
product | 8-benzyloxy-6-chloro-2-methyl-imidazo[1,2-a]pyridinehydrochloride | Cl.C(C1=CC=CC=C1)OC=1C=2N(C=C(C1)Cl)C=C(N2)C | InChI=1S/C15H13ClN2O.ClH/c1-11-8-18-9-13(16)7-14(15(18)17-11)19-10-12-5-3-2-4-6-12;/h2-9H,10H2,1H3;1H
